US04329464
To a solution of 1-(5-chloro-2-fluorobenzyl)pyrrole of Example XVIIIa (15 g, 72 mmole) in 100 ml THF, cooled to -80° C., is added a solution of n-butyllithium (2.5 M in hexane 75 mmole, 30 ml) over a period of ten minutes. The mixture is stirred at -80° C. for one hour, then at -50° C. for 15 minutes. The mixture is again cooled to -80° C., then a solution of 1-methyl-4-piperidone (8.1 g, 72 mmole) in 50 ml THF is added. After stirring at ambient temperature for two hours, the mixture is poured over 500 ml ice water and is extracted with ether. The organic layer is extracted with diluted HCl. The aqueous acidic extract is then basified with sodium carbonate and extracted with ether. The organic extracts are washed twice with water and dried (saturated NaCl, anhydrous MgSO4). The solution is filtered and concentrated to a solid (21 g, 90%, m.p. 110°-115° C.) of which 4 g is recrystallized from hexanes to yield crystals, m.p. 124°-125° C. of 4-[(5-chloro-2-fluorophenyl)-(1-pyrryl)methyl]-1-methyl-4-piperidinol.

reactant | 1-(5-chloro-2-fluorobenzyl)pyrrole | ClC=1C=CC(=C(CN2C=CC=C2)C1)F | C11H9ClFN
reactant | n-butyllithium | 75 mmole, 2.5 M, 30 ml | C(CCC)[Li]
reactant | 1-methyl-4-piperidone | 72 mmole, 8.1 g | CN1CCC(CC1)=O | C6H11NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-[(5-chloro-2-fluorophenyl)-(1-pyrryl)methyl]-1-methyl-4-piperidinol | ClC=1C=CC(=C(C1)C(C1(CCN(CC1)C)O)N1C=CC=C1)F | C17H20ClFN2O
